US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-[1-(2-methylpropyl)-1H-pyrazol-5-yl]thiophene-2-carboxamide
The title compound was prepared as described in Example 51A, substituting 1-isobutyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole and 5-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide for 4-bromoaniline. 1H NMR (500 MHz, DMSO-d6) δ ppm 9.24 (t, J=5.9 Hz, 1H), 8.51 (dd, J=7.0, 0.7 Hz, 1H), 7.90 (d, J=0.8 Hz, 1H), 7.87 (d, J=3.9 Hz, 1H), 7.57-7.49 (m, 2H), 7.43 (s, 1H), 7.39 (d, J=3.9 Hz, 1H), 6.87 (dd, J=7.0, 1.6 Hz, 1H), 6.56 (d, J=1.9 Hz, 1H), 4.51 (d, J=5.9 Hz, 2H), 4.08 (d, J=7.4 Hz, 2H), 2.09 (dp, J=13.8, 6.9 Hz, 1H), 0.80 (d, J=6.7 Hz, 6H); MS (ESI(+)) m/e 380 (M+H)+.

reactant | 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
reactant | 5-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide | BrC1=CC=C(S1)C(=O)NCC1=CC=2N(C=C1)C=CN2 | C13H10BrN3OS
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-[1-(2-methylpropyl)-1H-pyrazol-5-yl]thiophene-2-carboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)C=2SC(=CC2)C2=CC=NN2CC(C)C | C20H21N5OS
